US05011947
2-Ethyl-3,3-bis(4-fluorophenyl)-2-propenol
Diisobutylaluminum hydride (79 mL of 1M solution, 79 mmol) was added to a solution of ethyl 2-ethyl-3,3-bis(4-fluorophenyl)propenoate (8.3 g, 26.3 mmol) in 150 mL of methylene chloride at -70° C. After stirring for 3 hours, the mixture was hydrolyzed by adding 2N hydrochloric acid. The aqueous fraction was separated and extracted with methylene chloride. The combined organic fractions were dried with magnesium sulfate and concentrated in vacuo to give 7 g of the title compound as an oil; MS(CI): m/e =274 for M+ of C17H16F2O.

reactant | Diisobutylaluminum hydride | 79 mmol, 1M, 79 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 2-ethyl-3,3-bis(4-fluorophenyl)propenoate | 26.3 mmol, 8.3 g | C(C)C(C(=O)OCC)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C19H18F2O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-3,3-bis(4-fluorophenyl)-2-propenol | 7 g | C(C)C(CO)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H16F2O
